US06759410B1
a) 2-Fluoro-6-phenylbenzonitrile
The compound, 2-Bromo-6-fluorobenzonitrile, the procedure for the preparation of which may be found in Hynes, John B. et. al., J. Hetercycl. Chem. 1988, 25, 1173-7, (2.0 g, 10.0 mmol) and phenylboronic acid (3.66 g, 30 mmol) were added to a mixture of toluene (80 mL), methanol (20 mL), and 2 M aqueous sodium carbonate (20 mL). This mixture was refluxed while stirring under argon for 15 min. The resulting mixture was cooled to room temperature and tetrakis(triphenylphosphine)palladium(0) (1.16 g, 1 mmol) was added. The resulting mixture was then refluxed for 12 hours while stirring under argon. The solvent was removed in vacuo and the residue was partitioned between ethyl acetate and water. The organic phase was washed with water (2×), brine (1×), dried over anhydrous Na2SO4, filtered, and evaporated to give the crude product which was then chromatographed on silica gel eluted with 0-10% methylene chloride in hexane. Recrystallization from methylene chloride hexane gave the title product as a white crystalline solid. mp 78-79° C.

reactant | 2-Bromo-6-fluorobenzonitrile | BrC1=C(C#N)C(=CC=C1)F | C7H3BrFN
reactant | phenylboronic acid | 30 mmol, 3.66 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | toluene | 80 mL | C1(=CC=CC=C1)C | C7H8
reactant | sodium carbonate | 2 M, 20 mL | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 1 mmol, 1.16 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | methanol | 20 mL | CO | CH4O
product | 2-Fluoro-6-phenylbenzonitrile | FC1=C(C#N)C(=CC=C1)C1=CC=CC=C1 | C13H8FN
